US06420426B1
A solution of [4-allyloxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester (0.998 g, 2.35 mmol) in ethanol (150 mL) and ethyl acetate (5 mL) was degassed and put under a nitrogen atmosphere. Palladium catalyst (10% Pd-c, Degussa) was added and the flask was evacuated and treated with hydrogen (balloon). After stirring overnight, the solution was filtered through a pad of silica gel and washed with methanol. After concentrating the solution, the crude product was purified by flash collumn chromatography (30% hepatane in ethyl acetate) to give [4-propyloxy-2-(2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester.

reactant | [4-allyloxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester | 2.35 mmol, 0.998 g | C(C)OC(COC1=C(C=C(C=C1)OCC=C)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C21H21BrFNO5
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium | [Pd] | Pd
product | [4-propyloxy-2-(2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)OCCC)C(NCC1=C(C=CC=C1)F)=O)=O | C21H24FNO5
